US06897224B2
1-(Quinolin-8-ylamino)-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol
200 mg (0.68 mmol) of 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl)-2-(trifluoromethyl)oxirane (WO 00/32584) and 99 mg (0.68 mmol) of 8-aminoquinoline are heated in 0.2 ml of 3,4,5,6-tetrahydro-2-(1H)-pyrimidone (DMPU) for 20 hours to 130° C. After the reaction mixture is purified on silica gel with hexane-ethyl acetate (0-20%), 230 mg of the product is obtained.

reactant | 2-[2-(5-fluoro-2-methoxyphenyl)-2-methylpropyl)-2-(trifluoromethyl)oxirane | 0.68 mmol, 200 mg | FC=1C=CC(=C(C1)C(CC1(OC1)C(F)(F)F)(C)C)OC | C14H16F4O2
reactant | 8-aminoquinoline | 0.68 mmol, 99 mg | NC=1C=CC=C2C=CC=NC12 | C9H8N2
solvent | 3,4,5,6-tetrahydro-2-(1H)-pyrimidone | 0.2 ml | N1C(NCCC1)=O | C4H8N2O
product | 1-(Quinolin-8-ylamino)-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol | 230 mg | N1=CC=CC2=CC=CC(=C12)NCC(CC(C)(C)C1=C(C=CC(=C1)F)OC)(O)C(F)(F)F | C23H24F4N2O2
